US04723016
The procedure of Example 1 was followed using benzyl benzoate (9.6 mL, 50 mmol), potassium trimethylsilanolate (6.42 g, 50 mmol), dry ether (150 mL), and a 2 h reaction mixture. Potassium benzoate (5.9 g, 73% yield) was isolated as a white solid: 1H NMR (D2O) δ 7.1-8.0 ppm (m, Ar--H's, 5H). Anal. Calcd. for C7H5KO2 : C, 52.48; H, 3.15; K, 24.61. Found: C, 50.53, 50.76; H, 3.40, 3.21; K, 25.60, 25.50.

reactant | benzyl benzoate | 50 mmol, 9.6 mL | C(C1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C14H12O2
reactant | potassium trimethylsilanolate | 50 mmol, 6.42 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 150 mL | CCOCC | C4H10O
product | Potassium benzoate | 5.9 g, 73% yield | C(C1=CC=CC=C1)(=O)[O-].[K+] | InChI=1S/C7H6O2.K/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);/q;+1/p-1
